US06277502B1
A mixture of 8 g of methyl 4-[(trans-4-heptylcyclohexyl)methoxy]cinnamate and 50 ml of 10 percent methanolic potassium hydroxide solution is allowed to stand for 16 hours at room temperature. Thereafter, acidification is effected with aqueous 1 N sulfuric acid with continuous stirring and with cooling, extraction is effected with methylene chloride and the organic phase is washed several times with water, dried over magnesium sulfate and evaporated down. Crystallization from hexane/ethyl acetate gives 4-[(trans-4-heptylcyclohexyl)methoxy]cinnamic acid.

reactant | methyl 4-[(trans-4-heptylcyclohexyl)methoxy]cinnamate | 8 g | C(CCCCCC)[C@@H]1CC[C@H](CC1)COC1=CC=C(C=CC(=O)OC)C=C1 | C24H36O3
reactant | sulfuric acid | 1 N | S(O)(O)(=O)=O | H2O4S
solvent | potassium hydroxide | 50 ml | [OH-].[K+]
product | 4-[(trans-4-heptylcyclohexyl)methoxy]cinnamic acid | C(CCCCCC)[C@@H]1CC[C@H](CC1)COC1=CC=C(C=CC(=O)O)C=C1 | C23H34O3
